US09120749B2
Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[3-(2-(4-methylpiperazin-1-yl)ethyl)phenylamino]quinolin-3-yl}methanone
Following general procedure F, {6-bromo-4-[3-(2-(4-methylpiperazin-1-yl)ethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone (56 mg, 0.110 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (48 mg, 0.165 mmol) to afford the desired product (47 mg, 74%) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 9.25 (s, 1H), 7.89 (s, 2H), 7.69 (s, 1H), 7.41 (t, J=7.7 Hz, 1H), 7.24 (d, J=7.7 Hz, 1H), 7.13-6.94 (m, 4H), 2.97-2.84 (m, 1H), 2.82-2.72 (m, 2H), 2.66-2.51 (m, 10H), 2.43 (s, 3H), 1.32-1.06 (m, 4H). ESI MS m/z 575 [C32H32C12N4O2+H]+; HPLC 95.1% (AUC), tR=10.37 min.

reactant | {6-bromo-4-[3-(2-(4-methylpiperazin-1-yl)ethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.110 mmol, 56 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC(=CC=C1)CCN1CCN(CC1)C | C26H29BrN4O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.165 mmol, 48 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[3-(2-(4-methylpiperazin-1-yl)ethyl)phenylamino]quinolin-3-yl}methanone | 47 mg, 74% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC1=CC(=CC=C1)CCN1CCN(CC1)C)C1=CC(=C(C(=C1)Cl)O)Cl | C32H32Cl2N4O2
